US06235731B1
A mixture of 3-(4-tert-butoxycarbonylaminophenyl)propanol (2.66 g, 10.6 mmol), methanesulfonylchloride (1.33 g, 11.6 mmol), triethylamine (1.18 g, 11.7 mmol) and ethyl acetate (10 ml) was stirred at room temperature for 1 hour. Then the reaction mixture was diluted with ethyl acetate and successively washed with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on silica gel (50 g) with hexane-ethyl acetate (3:1) to give 3-(4-tert-butoxycarbonylaminophenyl)propyl methanesulfonate as colorless crystals (2.75 g, 79%).

reactant | 3-(4-tert-butoxycarbonylaminophenyl)propanol | 10.6 mmol, 2.66 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CCCO | C14H21NO3
reactant | methanesulfonylchloride | 11.6 mmol, 1.33 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 11.7 mmol, 1.18 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-(4-tert-butoxycarbonylaminophenyl)propyl methanesulfonate | 2.75 g, 79% | CS(=O)(=O)OCCCC1=CC=C(C=C1)NC(=O)OC(C)(C)C | C15H23NO5S
